US08859777B2
Step 2: Preparation of 1,1-Dibenzyl-3-[4-fluoro-4-(3-hydroxyphenyl)-piperidin-1-yl]propan-1-ol Hydrochloride.
The title compound was prepared via the debenzylation of 3-[4-(3-benzyloxyphenyl)-4-fluoropiperidin-1-yl]-1,1-dibenzylpropan-1-ol as described in Step 4 of Example 6, followed by salt formation using methanolic hydrogen chloride in 77% overall yield.

reactant | 3-[4-(3-benzyloxyphenyl)-4-fluoropiperidin-1-yl]-1,1-dibenzylpropan-1-ol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1(CCN(CC1)CCC(O)(CC1=CC=CC=C1)CC1=CC=CC=C1)F | C35H38FNO2
reactant | hydrogen chloride | Cl | ClH
product | 1,1-Dibenzyl-3-[4-fluoro-4-(3-hydroxyphenyl)-piperidin-1-yl]propan-1-ol Hydrochloride | Cl.C(C1=CC=CC=C1)C(CCN1CCC(CC1)(C1=CC(=CC=C1)O)F)(O)CC1=CC=CC=C1 | InChI=1S/C28H32FNO2.ClH/c29-28(25-12-7-13-26(31)20-25)15-18-30(19-16-28)17-14-27(32,21-23-8-3-1-4-9-23)22-24-10-5-2-6-11-24;/h1-13,20,31-32H,14-19,21-22H2;1H
